*
.SUBCKT BDP31 1 2 3
*
* housing parasitics
*
LBlead 2 22 1.63E-09
LE 3 333 3.77E-09
LC 1 11 4.1E-10
LBbond 22 222 2.5E-09
CBCG 222 11 1.76E-13
CBEG 222 333 8.6E-14
CCEG 11 333 1.76E-13
*
Q1 11 222 333 BDP31 AREA = 1
.MODEL BDP31 NPN (
+ IS = 1.806E-13
+ NF = 0.9945
+ ISE = 1.425E-13
+ NE = 1.987
+ BF = 70.03
+ IKF = 8
+ VAF = 270
+ NR = 0.999
+ ISC = 2.431E-14
+ NC = 1.104
+ BR = 10.24
+ IKR = 0.5
+ VAR = 65
+ RB = 8.104
+ IRB = 0.0002958
+ RBM = 0.1
+ RE = 0.126
+ RC = 0.001
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 6.553E-10
+ VJE = 0.6879
+ MJE = 0.3339
+ TF = 1.1E-09
+ XTF = 67
+ VTF = 5
+ ITF = 7.5
+ PTF = 0
+ CJC = 1.321E-10
+ VJC = 0.6299
+ MJC = 0.4519
+ XCJC = 1
+ TR = 9.5E-08
+ CJS = 0
+ VJS = 0.75
+ MJS = 0.333
+ FC = 0.78)
.ENDS
*